US07192943B2
To a solution of the crude product of 1-benzyl 5-tert-butyl (1S)-{1-[(5-amino-1-methyl-1H-pyrazol-4-yl)carbamoyl]pentamethylene}biscarbamate in methanol (350 ml) was treated with 10% palladium on carbon (2.0 g) under a hydrogen atmosphere at room temperature for 6 days. After the catalyst was filtered off, the filtrate was concentrated in vacuo. The residue was triturated with ethyl acetate and dried in vacuo to give tert-butyl (5S)-5-amino-6-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-6-oxohexylcarbamate (12.1 g) as a solid.

reactant | 1-benzyl 5-tert-butyl (1S)-{1-[(5-amino-1-methyl-1H-pyrazol-4-yl)carbamoyl]pentamethylene}biscarbamate | NC1=C(C=NN1C)NC(=O)[C@H](CCCCNC(OC(C)(C)C)=O)NC(OCC1=CC=CC=C1)=O | C23H34N6O5
solvent | methanol | 350 ml | CO | CH4O
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
product | tert-butyl (5S)-5-amino-6-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-6-oxohexylcarbamate | 12.1 g | N[C@@H](CCCCNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1N)C | C15H28N6O3
